US09260420B2
To a solution of 7-[4-(4-benzo[b]thiophen-4-ylpiperazin-1-yl)butoxy]-3,4-dihydro-1H-quinolin-2-one (1 g) synthesized in the same manner as in WO2006/112464 (Example 11) in DMF (10 ml) were added 37% aqueous formalin solution (3.7 ml) and triethylamine (0.05 ml), and the mixture was heated at 80° C. for 20 hr. Water was added to the reaction mixture, and the mixture was extracted with ethyl acetate, and dried over magnesium sulfate. The solvent was evaporated under reduced pressure and the residue was purified by silica gel column chromatography (dichloromethane:methanol=30:1) to give a mixture (1 g, 3:2) of 7-[4-(4-benzo[b]thiophen-4-ylpiperazin-1-yl)butoxy]-1-hydroxymethyl-3,4-dihydro-1H-quinolin-2-one and 7-[4-(4-benzo[b]thiophen-4-ylpiperazin-1-yl)butoxy]-3,4-dihydro-1H-quinolin-2-one.

reactant | 7-[4-(4-benzo[b]thiophen-4-ylpiperazin-1-yl)butoxy]-3,4-dihydro-1H-quinolin-2-one | 1 g | S1C2=C(C=C1)C(=CC=C2)N2CCN(CC2)CCCCOC2=CC=C1CCC(NC1=C2)=O | C25H29N3O2S
reactant | formalin | 3.7 ml | C=O | CH2O
reactant | triethylamine | 0.05 ml | C(C)N(CC)CC | C6H15N
reactant | Water | O | H2O
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
product | 7-[4-(4-benzo[b]thiophen-4-ylpiperazin-1-yl)butoxy]-1-hydroxymethyl-3,4-dihydro-1H-quinolin-2-one | 1 g | S1C2=C(C=C1)C(=CC=C2)N2CCN(CC2)CCCCOC2=CC=C1CCC(N(C1=C2)CO)=O | C26H31N3O3S
